* ro-array-core-pvt-q-extracted -- issue #17's post-layout re-run of
* sim/tb/ro-array-core-pvt-q/ against layout/pex/ro_array_core.extracted.spice
* instead of design/ro_array_core.spice. Byte-identical to that testbench's
* own fragment except: (1) this header, (2) the `xdut` line names
* `ro_array_core_extracted` and adds the trailing `vsubs` node
* `layout/pex/build.py`'s composition needs (tied to 0, the same reference
* every other ground node in this deck already uses -- the extracted
* netlist's own internal `Rvsubs_dctie ... 1e12` ties, not this testbench,
* is what anchors the DC operating point; see layout/pex/build.py's module
* docstring for why a low-impedance AC tie is not needed for a deterministic,
* noiseless transient like this one). No measurement expression changes.
*
* What "extracted" means here, and its limits: see
* sim/characterization-post-layout-extracted.md and layout/pex/build.py's
* own module docstring. In short -- every drawn leaf cell's own layout
* parasitics are captured (device geometry as extracted, plus that cell's
* own internal metal); the assembled ring's inter-stage wiring and any
* inter-region routing are NOT (neither is drawn/extractable today).
*
* ro-array-core-pvt-q -- the shipped entropy-source array over the FULL
* covered PVT grid, deterministic.
*
* DUT: design/ro_array_core.spice, exported from design/xschem/ro_array_core.sch
* by design/netlist.py -- the same DUT sim/tb/ro-array-core-power/
* measures, with the same rails, the same enable/.ic start-up kick, the
* same per-branch charge integrators and the same mid-supply crossing
* probe. This fragment is that testbench's fragment verbatim except for
* this header; every method note in
* sim/tb/ro-array-core-power/tb_ro_array_core_power.sp applies here
* unchanged and is not repeated.
*
* Why a SECOND testbench rather than an edit to that one (issue #13).
* ro-array-core-power's transient window is `tran 1p 50n` and it reads the
* ring period between the 2nd and 6th rising edge. That fits comfortably
* at the three PVT points it was run at (T0 = 4.3-7.1 ns, so the 6th edge
* lands at ~26-43 ns) and does not fit at all in the slow half of the grid:
* at ss/125 C/2.97 V the starved ring's period is several times longer and
* the 6th rising edge falls outside a 50 ns window, so `meas` returns no
* value and the point cannot be measured at all with that manifest.
*
* Issue #13 needs the whole covered grid ({tt, ff, ss} x {-40, 27, 125} C x
* {2.97, 3.30, 3.63} V -- fs/sf stay out, per DR-0006), because the
* entropy-binding corner claim it has to confirm is a claim about a
* MINIMUM over that grid, and a minimum is only as trustworthy as the set
* it was taken over. So this manifest widens the window to `tran 5p 300n`:
*   - 300 ns is long enough for the 6th rising edge at the slowest measured
*     corner with margin to spare (the slowest point on this grid oscillates
*     at ~30 ns/period, so its 6th edge lands near 180 ns);
*   - the print/`tmax` step relaxes 1 ps -> 5 ps so the solver-step count,
*     and therefore the per-point cost, stays at the same ~60k steps a 50 ns
*     / 1 ps run already paid -- a 300 ns / 1 ps run would have been 6x the
*     cost per point on a 27-point grid.
*
* The 1 ps -> 5 ps relaxation is a methodology change, so it is CHECKED
* rather than asserted: three of this grid's points (tt/27/3.30,
* ff/-40/3.63, ss/-40/3.63) are exactly the points sim/tb/ro-array-core-power/
* already has committed records for, and sim/tools/worst_corner_entropy.py
* reports the per-quantity agreement between the two families at those
* points. A 5 ps ceiling still resolves this array's ~0.5 ns edges with
* ~100 solver steps, and both period and integrated charge are read from
* like-edged crossings an exact integer number of periods apart, which is
* the construction that makes them insensitive to where inside an edge a
* sample happens to land.
*
* What this testbench does NOT change: it measures exactly the quantities
* ro-array-core-power measures, by the same expressions, so a record from
* either family is usable in DR-0007 SS2's sizing inequality without
* conversion. It is a window/step change, not a new measurement.
*
* Node-naming note (#65): ro_array_core now exposes its two per-ring nodes as
* observation-only output pins (ro1/ro2), so the shipped DR-0016 liveness
* digitizers in design/xschem/sampler_core.sch can reach them. That change
* adds no device and changes no ring. The two extra nodes on the xdut line
* below, and the v(ro1)/v(ro2) measurement expressions in tb.json, name the
* SAME nets this deck already measured hierarchically as v(xdut.ro1) before
* the pins existed -- a subcircuit port is not addressable as an internal
* node, so the reference moved from dotted to top-level. The circuit
* simulated here is identical to the one the pre-#65 records describe.

vsup vsup 0 dc vdd_val
ven en 0 dc vdd_val

vr1 vsup vddr1 dc 0
vr2 vsup vddr2 dc 0
vtr vsup vdd dc 0

xdut en en vddr1 vddr2 vdd 0 xo ro1 ro2 0 ro_array_core_extracted

fq1 q1 0 vr1 1
cq1 q1 0 1n
rq1 q1 0 1e12
fq2 q2 0 vr2 1
cq2 q2 0 1n
rq2 q2 0 1e12
fqt qt 0 vtr 1
cqt qt 0 1n
rqt qt 0 1e12

bvth vth 0 v = 0.5*vdd_val

.ic v(xdut.xr1.n1)=0
.ic v(xdut.xr2.n1)=0
.ic v(q1)=0
.ic v(q2)=0
.ic v(qt)=0
